US03950530
A solution of 12.7 grams (0.10 mole) of the ethyl imidate of 3-methyl-2-pyrrolidone in 30 milliliters of nitromethane was refluxed for four days with occasional distillation of ethanol by-product to bring the reflux temperature back to 100°C. Excess nitromethane (and ethanol present) then was evaporated under reduced pressure to give a dark oily residue. The residue was dissolved in ethyl acetate and passed through a Florisil column. Evaporation of the solvent from the filtrate left a crystalline residue, which when recrystallized from ether, gave 4.6 grams of 3-methyl-2-(nitromethylene)pyrrolidine, as a white solid, melting point: 47- 47.5°C.

reactant | 3-methyl-2-pyrrolidone | CC1C(NCC1)=O | C5H9NO
reactant | ethanol | C(C)O | C2H6O
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | nitromethane | 30 milliliters | [N+](=O)([O-])C | CH3NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methyl-2-(nitromethylene)pyrrolidine | 4.6 grams | CC1C(NCC1)=C[N+](=O)[O-] | C6H10N2O2
